US08895313B2
4-Amino-3-trifluoromethyl-N-[4-(6-hydroxybenzothiazol-2-yl)-phenyl]-benzamide
Prepared as described in the Demethylation section using 4-amino-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide (0.30 g, 0.68 mmol) in dry DCM (10 ml) and BBr3 (1.0 M solution in DCM, 5.42 ml, 5.42 mmol) to give the title compound (0.064 g, 22%) as an orange solid after work-up and flash chromatography (3:1 DCM/EtOAc).

reactant | 4-amino-3-trifluoromethyl-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.68 mmol, 0.30 g | NC1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)C(F)(F)F | C22H16F3N3O2S
reactant | BBr3 | 5.42 mmol, 1.0 M, 5.42 ml | B(Br)(Br)Br | BBr3
reactant | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-Amino-3-trifluoromethyl-N-[4-(6-hydroxybenzothiazol-2-yl)-phenyl]-benzamide | 0.064 g, 22% | NC1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)O)C=C1)C(F)(F)F | C21H14F3N3O2S
